US04423076
1-Neopentyl-3-(2-Chloroethyl)-3-Nitrosourea (V).
The entire yield of 1-neopentyl-3-(2-chloroethyl) urea (0.08 mol) was dissolved in 120 ml of concentrated HCl:ethanol, 2:1 at 5° C. in a 500 ml round bottom flask equipped with magnetic stirring. Sodium nitrite (5.5 g, 0.08 mol) was dissolved in 30 ml of water and added to the solution over a ten-minute period. Stirring continued for 2 hrs, and the yellow, crystalline precipitate was filtered and washed with five 100 ml portions of chilled distilled water. The product was dried in vacuo for 18 hrs. giving 15 g (84%) which melted with decomposition at 52°-3° C. IR analysis showed peaks at 1730/cm (C=O) and 1520/cm (C--N--H). NMR showed a singlet (9H) at 1 ppm, a doublet (2H, J=6.5 HZ) at 3.3 ppm, a triplet (2H, J=6.5 Hz) at 3.6 ppm, and a triplet (2H, J=6.5 Hz) at 4.2 ppm.

reactant | 1-neopentyl-3-(2-chloroethyl) urea | 0.08 mol | C(C(C)(C)C)NC(=O)NCCCl | C8H17ClN2O
reactant | ethanol | C(C)O | C2H6O
reactant | Sodium nitrite | 0.08 mol, 5.5 g | N(=O)[O-].[Na+]
solvent | HCl | 120 ml | Cl | ClH
solvent | water | 30 ml | O | H2O
product | 1-Neopentyl-3-(2-Chloroethyl)-3-Nitrosourea | C(C(C)(C)C)NC(=O)N(N=O)CCCl | C8H16ClN3O2
